US08212045B2
3-(2-Ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinamide (71 g, 201 mmol) was dissolved in MeOH (1 L). 1-Bromopyrrolidine-2,5-dione (46.6 g, 262 mmol) was added and the reaction was stirred at ambient temperature for 5 minutes and then cooled in an ice bath. Sodium hydroxide (41.9 g, 1048 mmol) dissolved in water (200 mL) was added slowly and the reaction was stirred at ambient temperature for 1 hour, refluxed for 8 hours and then cooled to ambient temperature overnight. The reaction was diluted with 2.5 L water and 0.5 L NH4Cl and stirred for 30 minutes. The precipitate was filtered and dried to afford 3-(2-ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine (52.6 g, 162 mmol, 80.5% yield) as a tan solid.

reactant | 3-(2-Ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)picolinamide | 201 mmol, 71 g | C(C)C1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)C(=O)N | C18H16N4O2S
reactant | 1-Bromopyrrolidine-2,5-dione | 262 mmol, 46.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Sodium hydroxide | 1048 mmol, 41.9 g | [OH-].[Na+]
solvent | MeOH | 1 L | CO | CH4O
solvent | water | 200 mL | O | H2O
solvent | water | 2.5 L | O | H2O
solvent | NH4Cl | 0.5 L | [NH4+].[Cl-]
product | 3-(2-ethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine | 162 mmol, 52.6 g, 80.5% yield | C(C)C1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)N | C17H16N4OS
